US05073646
50 g (0.495 mol) of triethylamine are added to a solution of 77.33 g (0.329 mol) of trans-1-diphenylmethyl-3-hydroxy-2-methylazetidine in 600 ml of dichloromethane and the mixture is cooled to 0° C. The temperature is maintained, a solution of 50 g (0.437 mol) of mesyl chloride is added dropwise and the mixture is left for 24 hours at room temperature. The resulting solution is washed twice with water (300 ml), dried with anhydrous sodium sulphate and evaporated, and an oil is obtained which, when crystallized with petroleum ether, gives 104.6 g (96%) of trans-1-diphenylmethyl-2-methyl-3-methylsulphonyloxyazetidine, melting point 68°-71° C.

reactant | triethylamine | 0.495 mol, 50 g | C(C)N(CC)CC | C6H15N
reactant | trans-1-diphenylmethyl-3-hydroxy-2-methylazetidine | 0.329 mol, 77.33 g | C1(=CC=CC=C1)C(N1[C@H]([C@@H](C1)O)C)C1=CC=CC=C1 | C17H19NO
reactant | mesyl chloride | 0.437 mol, 50 g | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
product | trans-1-diphenylmethyl-2-methyl-3-methylsulphonyloxyazetidine | 104.6 g, 96% | C1(=CC=CC=C1)C(N1[C@H]([C@@H](C1)OS(=O)(=O)C)C)C1=CC=CC=C1 | C18H21NO3S
